US07105567B2
By the reaction and treatment in the same manner as in Example 2 using benzyl(4-heptyloxyphenyl)amine (2.1 g) and 2,6-diisopropylphenyl isocyanate (1.61 g) as starting materials, N-benzyl-N′-(2,6-diisopropylphenyl)-N-(4-heptyloxyphenyl)urea (1.4 g) was obtained.

reactant | benzyl(4-heptyloxyphenyl)amine | 2.1 g | C(C1=CC=CC=C1)NC1=CC=C(C=C1)OCCCCCCC | C20H27NO
reactant | 2,6-diisopropylphenyl isocyanate | 1.61 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
product | N-benzyl-N′-(2,6-diisopropylphenyl)-N-(4-heptyloxyphenyl)urea | 1.4 g | C(C1=CC=CC=C1)N(C(=O)NC1=C(C=CC=C1C(C)C)C(C)C)C1=CC=C(C=C1)OCCCCCCC | C33H44N2O2
